US07282507B2
2-(5-Chloro-6-trifluoromethyl-1H-indol-2-yl)-1-(4-fluoro-phenylsulfanyl)-propan-2-ol
4-Fluoro-phenyl thiol (55 mg, 0.425 mmoL) was treated with NaH (60%, 17 mg, 0.425 mmoL) in THF (2 mL) at 0° C. After 10 min., 5-chloro-1-methanesulfonyl-2-(2-methyl-oxiranyl)-6-trifluoromethyl-1H-indole, the epoxide derivative compound prepared as in Example 72 (100 mg, 0.425 mmoL) in THF (1 mL) was added into the reaction via syringe. The reaction was slowly warmed to room temperature. THF was removed and the residue was partitioned between CH2Cl2 and water. The organic layer was washed with brine and dried over anhydrous Na2SO4, then concentrated to yield a crude white solid. The crude material was purified using column chromatography (silica gel, 3:1 hexanes:EtOAc as eluent) to yield the title compound as a white solid.

reactant | 4-Fluoro-phenyl thiol | 55 mg | FC1=CC=C(C=C1)S | C6H5FS
reactant | NaH | 17 mg | [H-].[Na+]
reactant | 5-chloro-1-methanesulfonyl-2-(2-methyl-oxiranyl)-6-trifluoromethyl-1H-indole | ClC=1C=C2C=C(N(C2=CC1C(F)(F)F)S(=O)(=O)C)C1(OC1)C | C13H11ClF3NO3S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(5-Chloro-6-trifluoromethyl-1H-indol-2-yl)-1-(4-fluoro-phenylsulfanyl)-propan-2-ol | ClC=1C=C2C=C(NC2=CC1C(F)(F)F)C(CSC1=CC=C(C=C1)F)(C)O | C18H14ClF4NOS
